US07176242B2
Methyl 1-butyl-1H-indole-6-carboxylate (4.53 g) was dissolved in dichloromethane (25 ml). The mixture was cooled to 0° C. Diethyl aluminum chloride was added dropwise (29.5 mL) and the mixture was allowed to stir at 0° C. for 30 min. A solution of dichloromethane (25 mL) and acetyl chloride (2.1 mL) was added dropwise, and the mixture was stirred for 2 h at 0° C. The mixture was then partitioned between dichloromethane, water, and brine, dried over sodium sulfate, filtered, and concentrated. The concentrate was chromatographed on silica gel using ethyl acetate/heptane (40/60) to give methyl 3-acetyl-1-butyl-1H-indole-6-carboxylate (3.38 g). MS (ESI+) for C16H19N1O3+H1 m/z 274.14 (M+H)+.

reactant | Methyl 1-butyl-1H-indole-6-carboxylate | 4.53 g | C(CCC)N1C=CC2=CC=C(C=C12)C(=O)OC | C14H17NO2
reactant | Diethyl aluminum chloride | [Cl-].C(C)[Al+]CC
reactant | acetyl chloride | 2.1 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | methyl 3-acetyl-1-butyl-1H-indole-6-carboxylate | 3.38 g | C(C)(=O)C1=CN(C2=CC(=CC=C12)C(=O)OC)CCCC | C16H19NO3
